US05663200
19d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-phenylmethylhexanoic acid
A solution of 6.35 g of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-phenylmethylhexanoic acid in 90 ml of DMF is treated, while being stirred, with 8 g of imidazole and 10 g of t-butyldimethylchlorosilane. After having been stirred at RT for 18 h, the yellow, clear solution is poured onto ice-water, and this mixture is extracted three times with 250 ml of ethyl acetate on each occasion. The combined extracts are washed, in succession, three times with 10% citric acid, once with water, three times with aqueous, saturated sodium bicarbonate solution, once with water and, finally, with saline. After drying over sodium sulfate, the solvent is evaporated and the resulting tert-butyl dimethylsilyl ether (13.5 g) is dissolved in 53 ml of THF and treated with 53 ml of acetic acid and 20 ml of water. After having been stirred at RT for 3 h, the mixture is poured onto water, and this mixture is extracted three times with ether. The collected ether extracts are washed twice with water and once with saline and dried over sodium sulfate. After concentrating, the crude product is purified by column chromatography (SiO2, hexane/ethyl acetate: 3.5/1.5), and the title compound is obtained. TLC Rf (D)=0.37; FAB-MS (M+H)+ =528.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-phenylmethylhexanoic acid | 6.35 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=CC=C1 | C24H31NO5
reactant | imidazole | 8 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 10 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-phenylmethylhexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C30H45NO5Si
